US05919824
tert-Butyl 2-(3-nitrophenyl)acetate (S59)
3-Nitrophenylacetic acid (10.0 g) was dissolved in a mixture (70 ml) of tertiarybutanol and tetrahydrofuran. Di(tertiarybutyl) dicarbonate (18.1 g) and 4-dimethylaminopyridine (1.4 g) were added to the mixture with stirring at room temperature and the solution was stirred for 1 hour at the same temperature. The reaction mixture was added into ice-water and extracted with diethyl ether. The extract was successively washed with 1N HCl, water saturated aqueous sodium hydrogencarbonate solution, and brine, then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate=20:1), obtaining 13.3 g of the title compound.

reactant | 3-Nitrophenylacetic acid | 10.0 g | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)O | C8H7NO4
reactant | Di(tertiarybutyl) dicarbonate | 18.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tertiarybutanol | 70 ml | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 1.4 g | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-Butyl 2-(3-nitrophenyl)acetate | 13.3 g | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)OC(C)(C)C | C12H15NO4
